US08258131B2
(1) Preparation of 7-chloro-3-cyclopropyl-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen
A mixture of 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen (a compound obtained in Reference Example 8(1); 200 mg), cyclopropylboronic acid (100 mg), potassium phosphate (410 mg) and tetrakis(triphenylphosphine)palladium(0) (65 mg) in dioxane (5 mL) was heated under reflux for 23 hours. After cooling, to the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and filtered through a column of porous diatomite (Chem Elut), and the filtrate was concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: n-hexane/chloroform=100/0 to 95/5) to give the titled compound (114 mg) as a colorless viscous oil.

reactant | 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | BrC=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)F)Cl)(C)C | C17H13BrClFO
reactant | cyclopropylboronic acid | 100 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 410 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-chloro-3-cyclopropyl-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | 114 mg | ClC1=CC=C2C(=C(C(OC2=C1)(C)C)C1CC1)C1=CC=C(C=C1)F | C20H18ClFO
